* c:\Users\ezzkn\OneDrive - The University of Nottingham\Documents\SCENT\UQSpice\PyUQSpice\pyuqspice\test_files\Transient\simple_resistor_ver2.asc
V1 N001 0 4
R1 N001 0 1
.tran 0 0.001
.backanno
.end
